US05719157
m-Chloroperbenzoic acid (85%, 830 mg) was added in small portions under ice-cooling to a solution of ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline-3-carboxylate (3.0 g) in dichloromethane (75 ml). The reaction mixture was stirred at room temperature for 2.5 hours, washed successively with 5% aqueous NaHSO3 solution, saturated aqueous sodium bicarbonate solution and water, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate/methanol (10/1, v/v) gave ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)sulfinylmethyl]quinoline-3-carboxylate (1.8 g, 58%) which was then recrystallized from acetone-ethyl ether.

reactant | m-Chloroperbenzoic acid | 830 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline-3-carboxylate | 3.0 g | COC=1C=C2C(=C(C(=NC2=CC1OC)CSC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C27H29N3O6S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methylimidazol-2-yl)sulfinylmethyl]quinoline-3-carboxylate | 1.8 g, 58% | COC=1C=C2C(=C(C(=NC2=CC1OC)CS(=O)C=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C27H29N3O7S
